US05556863
Preparation of 3-butyryl-4-(2-methyl,6-chlorophenylamino)-8-(2-methylthioethoxy)quinoline
A mixture of 3-butyryl-4-chloro-8-(2-methylthioethoxy)quinoline (0.8 g, 2.5 mmol) and 2-methyl, 6-chloroaniline (0.52 g, 3.7 mmol) in toluene (12 ml) was heated to 90° C. and stirred 3.0 h. After cooling to room temperature, methylene chloride and water were added. The mixture was neutralized with a saturated solution of sodium bicarbonate. The organic layer was dried over sodium sulfate and evaporated. Chromatography (SiO2; EtOAc) gave 0.77 g (72%) of the title compound.

reactant | 3-butyryl-4-chloro-8-(2-methylthioethoxy)quinoline | 2.5 mmol, 0.8 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCSC | C16H18ClNO2S
reactant | 6-chloroaniline | 3.7 mmol, 0.52 g | ClC1=CC=CC=C1N | C6H6ClN
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-butyryl-4-(2-methyl,6-chlorophenylamino)-8-(2-methylthioethoxy)quinoline | 0.77 g, 72% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1Cl)C)OCCSC | C23H25ClN2O2S
